US09359375B2
To a solution of 2,6-dichloro-5-fluoronicotinamide (233 mg, 1.22 mmol) in NMP (5.0 mL) was added (R)-benzyl-1-(1-aminopropyl)cyclopropylcarbamate hydrochloride salt (350 mg, 1.23 mmol) and DIPEA (0.434 mL, 2.44 mmol). After heated at 80° C. for 4 h, the mixture was diluted with EtOAc, organic layer was washed brine, dried and concentrated to give (R)-benzyl 1-(1-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)propyl)cyclopropylcarbamate (220 mg).

reactant | 2,6-dichloro-5-fluoronicotinamide | 1.22 mmol, 233 mg | ClC1=C(C(=O)N)C=C(C(=N1)Cl)F | C6H3Cl2FN2O
reactant | (R)-benzyl-1-(1-aminopropyl)cyclopropylcarbamate hydrochloride salt | 1.23 mmol, 350 mg | Cl.C(C1=CC=CC=C1)OC(NC1(CC1)[C@@H](CC)N)=O
reactant | DIPEA | 2.44 mmol, 0.434 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 5.0 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-benzyl 1-(1-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)propyl)cyclopropylcarbamate | 220 mg | ClC1=C(C=C(C(=N1)N[C@H](CC)C1(CC1)NC(OCC1=CC=CC=C1)=O)F)C#N | C20H20ClFN4O2
